US04171366
To 40 ml of abs. ether is added at 3° under nitrogen 0.76 g (0.02 mole) of lithium aluminium hydride, and there is then added dropwise at 5° with stirring, in the course of half an hour, a solution of 2.9 g (0.01 mole) of 7-chlorobenzo[f]thieno [2,3-b]thiepin-4-carboxylic acid in 60 ml of abs. ether and 20 ml of abs. tetrahydrofuran. The mixture is subsequently stirred for 2 hours at room temperature; 4 ml of water is then slowly added dropwise at 5°, and the precipitate is filtered off with suction. The filtrate is concentrated in vacuo; the crude residue is chromatographed on a silica-gel column, and by elution with chloroform is yielded 7-chlorobenzo[f]thieno [2,3-b]thiepin-4-methanol, m.p. 117°-120°.

reactant | ether | CCOCC | C4H10O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-chlorobenzo[f]thieno [2,3-b]thiepin-4-carboxylic acid | 0.01 mole, 2.9 g | ClC=1C=CC2=C(C=C(C3=C(S2)SC=C3)C(=O)O)C1 | C13H7ClO2S2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 7-chlorobenzo[f]thieno [2,3-b]thiepin-4-methanol | ClC=1C=CC2=C(C=C(C3=C(S2)SC=C3)CO)C1 | C13H9ClOS2
